US05254549
A solution of 45 ml (0.47 mol) of 3-bromopyridine and 52 g (0.53 mol) of 5-hexyn-l-ol in 150 ml of triethylamine and 500 ml of dichloromethane is degassed for 15 minutes with argon, and 3 g (4,3 mmol) of bis(triphenylphosphine)palladium(II)chloride and 450 mg of cuprous iodide is added. The mixture is heated at reflux for 3 h. The cooled reaction mixture is diluted with 1 liter of dichloromethane and is washed with water and brine, dried (K2CO3), concentrated and bulb-to-bulb distilled (b.p. 120°-130° C./0.05 mbar), to give 63 g of 6-(3-pyridyl)hex-5-ynol as a yellow oil, which is dissolved in 500 ml of ethyl acetate and af ter addition of 15 ml of quinoline is hydrogenated f or 5 h over 6 g Lindlar catalyst (Pb-poisoned Pd catalyst) in a Parrhydrogenator. The crude product is evaporatively distilled (b.p. 120°-130° C./0.05 mbar), yielding 61 g (73%) of (Z)-6-(3-pyridyl)hex-5-enol as a colourless viscous liquid. (C11H15NO; F.W. 177.3).

reactant | quinoline | 15 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | Lindlar catalyst | 6 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | (Z)-6-(3-pyridyl)hex-5-enol | 61 g, 73% | N1=CC(=CC=C1)\C=C/CCCCO | C11H15NO
